US07208495B2
1-(4-methoxyphenyl)-4-(2,2,4,6,7-pentamethyl-3-(2-pyridylmethyl)oxy-2,3-dihydro-1-benzofuran-5-yl)piperazine
Using 2-chloromethylpyridine hydrochloride and 5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol obtained in Reference Example 18, the title compound was synthesized in the same manner as in Example 74. Yield 86%. mp. 120–121° C. (hexane-ethyl acetate). 1H-NMR (CDCl3) δ: 1.37 (3H, s), 1.59 (3H, s), 2.09 (3H, s), 2.25 (3H, s), 2.28 (3H, s), 3.05–3.28 (8H, m), 3.79 (3H, s), 4.67 (2H, s), 4.75 (1H, s), 6.86 (2H, d, J=9.2 Hz), 6.97 (2H, d, J=9.2 Hz), 7.15–7.21 (1H, m), 7.48 (1H, d, J=7.6 Hz), 7.68 (1H, t, J=7.6 Hz), 8.52 (1H, d, J=4.4 Hz).

reactant | 2-chloromethylpyridine hydrochloride | Cl.ClCC1=NC=CC=C1
reactant | 5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)O)C1C)C)C | C24H32N2O3
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-(4-methoxyphenyl)-4-(2,2,4,6,7-pentamethyl-3-(2-pyridylmethyl)oxy-2,3-dihydro-1-benzofuran-5-yl)piperazine | Yield 86% | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)OCC2=NC=CC=C2)C1C)C)C | C30H37N3O3
